US06468607B1
To a THF solution of an organic lithium reagent prepared from 5,6-difluoro-2-bromonaphthalene were added dropwise 4-iodo-1-(trans-4-propylcyclohexyl)benzene and a THF solution of tetrakis(triphenylphosphine)palladium (0) in the catalytic amount. The reaction mixture were then stirred at room temperature for 3 hours. To the reaction mixture were then added water and toluene to terminate the reaction. To the reaction solution was then added diluted hydrochloric acid until the aqueous phase became weakly acidic. The reaction solution was then extracted with toluene. The material thus extracted and the organic phase were together washed with water and then with saturated brine, and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain an oily matter. The oily matter was purified through silica gel column chromatography (hexane), and then recrystallized from ethanol to obtain 5,6-difluoro-2-[4-(trans-4-propylcyclohexyl)phenyl]naphthalene in the form of white crystal,

reactant | lithium | [Li] | Li
reactant | 5,6-difluoro-2-bromonaphthalene | FC1=C2C=CC(=CC2=CC=C1F)Br | C10H5BrF2
reactant | 4-iodo-1-(trans-4-propylcyclohexyl)benzene | IC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCC | C15H21I
reactant | hydrochloric acid | Cl | ClH
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | C1CCOC1 | C4H8O
product | 5,6-difluoro-2-[4-(trans-4-propylcyclohexyl)phenyl]naphthalene | FC1=C2C=CC(=CC2=CC=C1F)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCC | C25H26F2
